US05256675
To a mixture of 2-amino-5-(4-methanesulfonylaminophenylthio)thiazole (2.0 g) in chloroform (100 ml) was added dropwise the solution of 3-chloroperbenzoic acid (1.6 g) in chloroform (50 ml) at 5° C. under ice cooling with stirring. The mixture was stirred at 5° C. for 2.5 hours. The reaction mixture was washed with aqueous sodium bicarbonate and the precipitates were collected by filtration. The solid was washed with aqueous sodium bicarbonate and water, dried in vacuo to give 2-amino-5-(4-methanesulfonylaminophenylsulfinyl)thiazole (1.95 g, yield: 92.6%). mp: 201°-203° C. (.dec.)

reactant | 2-amino-5-(4-methanesulfonylaminophenylthio)thiazole | 2.0 g | NC=1SC(=CN1)SC1=CC=C(C=C1)NS(=O)(=O)C | C10H11N3O2S3
reactant | 3-chloroperbenzoic acid | 1.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-5-(4-methanesulfonylaminophenylsulfinyl)thiazole | 1.95 g, yield: 92.6% | NC=1SC(=CN1)S(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C10H11N3O3S3
